US04709062
A flask equipped with a condenser and a stirrer was charged with 122 g of 2,4-dimethylphenol, 101 g of N-methylolacrylamide, 1.80 g of p-toluenesulfonic acid and 100 ml of acetone, and the mixture was reacted at 60° C. for 60 minutes with stirring. The obtained reaction mixture was poured into excess water to separate an organic layer. The organic layer was dissolved in 200 ml of methylene chloride, which was washed with three 100 ml portions of water to give 174 g of N-(3,5-dimethyl-2-hydroxybenzyl)acrylamide.

reactant | 2,4-dimethylphenol | 122 g | CC1=C(C=CC(=C1)C)O | C8H10O
reactant | N-methylolacrylamide | 101 g | C(O)NC(C=C)=O | C4H7NO2
reactant | acetone | 100 ml | CC(=O)C | C3H6O
catalyst | p-toluenesulfonic acid | 1.80 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | N-(3,5-dimethyl-2-hydroxybenzyl)acrylamide | 174 g | CC=1C(=C(CNC(C=C)=O)C=C(C1)C)O | C12H15NO2
